US08378104B2
Step D: {7-[bis(tert-butoxycarbonyl)amino]-4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-2-yl}boronic acid (Title Compound)
To a cooled (−78° C.) solution of di-tert-butyl{4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-7-yl}imidodicarbonate (1 g, 2 mmol) in anhydrous THF (10 mL) was added lithium diisopropylamide (2 M in THF, 1.47 mL, 2.94 mmol), and the mixture stirred for 30 min. Boric acid, trimethyl ester (0.371 mL, 3.26 mmol) was added, and the mixture stirred for 10 min before warming to 0° C. The mixture was quenched with water (0.2 mL) and warmed to RT. The THF was removed by rotary evaporation, and the residue was partitioned between ethyl acetate and water. Following separation of the layers, the organic layer was dried over sodium sulfate and evaporated. To the resulting foam was added heptane, and the solution was stirred until the particles were reduced to a powdery solid. The mixture was filtered and washed with heptane (10×). The solid was dried under vacuum to afford 0.6 g (60%) of the title compound as a beige solid. 1H NMR (400 MHz, CD3OD): δ 8.23 (s, 1 H), 8.22 (s, 1 H), 8.01 (s, 1 H), 7.07 (s, 1 H), 4.39-4.18 (m, 1 H), 3.93-3.70 (m, 1 H), 2.26-2.13 (m, 2 H), 2.11-1.92 (m, 4 H), 1.60-1.53 (m, 2 H), 1.33 (s, 18 H), 0.93 (s, 9 H), 0.12 (s, 6 H).

reactant | di-tert-butyl{4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-7-yl}imidodicarbonate | 2 mmol, 1 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C=1N=CC(=C2C1OC=C2)C=2C=NN(C2)[C@@H]2CC[C@H](CC2)O[Si](C)(C)C(C)(C)C | C32H48N4O6Si
reactant | lithium diisopropylamide | 2.94 mmol, 2 M, 1.47 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | Boric acid, trimethyl ester | 3.26 mmol, 0.371 mL | B(OC)(OC)OC | C3H9BO3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | {7-[bis(tert-butoxycarbonyl)amino]-4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-2-yl}boronic acid | 0.6 g, 60% | C(C)(C)(C)OC(=O)N(C=1N=CC(=C2C1OC(=C2)B(O)O)C=2C=NN(C2)[C@@H]2CC[C@H](CC2)O[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C | C32H49BN4O8Si
